simulator lang=spectre
global 0

ahdl_include "dut_buggy.va"

Vin (vin 0) vsource type=pwl wave=[0 0 20n 0 21n 0.8 160n 0.8]

XDUT (vin vout) first_order_lowpass

tran tran stop=160n maxstep=500p
save vin vout
